US07125901B2
N-{4-[4-(Methylsulfinyl)phenyl]-1,3-thiazol-2-yl}acetamide (1.5 g), sodium acetate (1.54 g), and acetic anhydride (30 ml) were combined under N2 atmosphere. The reaction mixture was refluxed for 2 hours. After cooled to r.t., the mixture was diluted in AcOEt. The organic solution was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residual solid was washed with ethyl ether/n-hexane to give ({4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}thio)methyl acetate (811.2 mg) as an off-white solid.

reactant | N-{4-[4-(Methylsulfinyl)phenyl]-1,3-thiazol-2-yl}acetamide | 1.5 g | CS(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C12H12N2O2S2
reactant | sodium acetate | 1.54 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | ({4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}thio)methyl acetate | 811.2 mg | C(C)(=O)OCSC1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C14H14N2O3S2
